US08729264B2
3-Bromo-7-hydroxypyrazolo[1,5-a]pyrimidine-6-carboxylic acid
Ethyl 3-bromo-7-hydroxypyrazolo[1,5-a]pyrimidine-6-carboxylate (Journal of Medicinal Chemistry, vol. 25, p. 235, 1982) (11.0 g, 38.5 mmol) was dissolved in ethanol (134 mL), 2 mol/L aqueous sodium hydroxide solution (134 mL, 269 mmol) was added, and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was cooled to room temperature, and ethanol was evaporated under reduced pressure. 2 mol/L Hydrochloric acid (140 mL) was added under ice-cooling, and the mixture was stirred at room temperature for 30 min. The precipitate was collected by filtration, and washed with water (100 mL) and 2-propanol (50 mL) to give the title compound (9.9 g, 99%).

reactant | Ethyl 3-bromo-7-hydroxypyrazolo[1,5-a]pyrimidine-6-carboxylate | 38.5 mmol, 11.0 g | BrC=1C=NN2C1N=CC(=C2O)C(=O)OCC | C9H8BrN3O3
reactant | sodium hydroxide | 269 mmol, 2 mol/L, 134 mL | [OH-].[Na+]
solvent | ethanol | 134 mL | C(C)O | C2H6O
product | 3-Bromo-7-hydroxypyrazolo[1,5-a]pyrimidine-6-carboxylic acid | 9.9 g, 99% | BrC=1C=NN2C1N=CC(=C2O)C(=O)O | C7H4BrN3O3
